US06380238B1
Step (a): (RS)-1-(6-Chloroindol-1-yl)-2-propanol (1a)
To a stirred suspension of sodium hydride (60%, 1.26 g, 31.6 mmol) in tetrahydrofuran (30 mL) at 0° C. under Ar was added dropwise a solution of 6-chloroindole (4.0 g, 26 mmol) in tetrahydrofuran (30 mL). The mixture was stirred for 1 h and (RS)-propylene oxide (3.7 mL, 53 mmol) was added. The mixture was warmed to room temperature, stirred for 48 h and partitioned between aqueous ammonium chloride solution (100 mL) and ether (3×100 mL). The combined organic extracts were washed with brine (2×100 mL), dried (magnesium sulfate), concentrated in vacuo and purified by column chromatography [SiO2; ethyl acetate-hexane (1:9)] to give the product (2.78 g, 50% yield) as a pale yellow oil. Data for the compounds produced using General Method A, step (a) are listed in Table 3.

reactant | sodium hydride | 31.6 mmol, 1.26 g | [H-].[Na+]
reactant | 6-chloroindole | 26 mmol, 4.0 g | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | (RS)-propylene oxide | 53 mmol, 3.7 mL | C1C(C)O1 | C3H6O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (RS)-1-(6-Chloroindol-1-yl)-2-propanol | 2.78 g, 50% yield | ClC1=CC=C2C=CN(C2=C1)CC(C)O | C11H12ClNO
